US05650533
A mixture of methyl 4-chloro-3-methyl-2-(methylsulphenyl)benzoate (19.5 g) and cyclopropyl methyl ketone (13.4 g) in dry tetrahydrofuran was added to a stirred heated suspension of sodium hydride (80% oil dispersion, 4.8 g) in dry tetrahydrofuran. The mixture was stirred and heated at reflux for 2 hours. It was cooled and hydrochloric acid (2 ml) was added. The layers were separated and the aqueous layer was extracted with ether. The combined organic layers were washed with water, saturated aqueous sodium bicarbonate, water, dried (Na2SO4) and filtered. The filtrate was evaporated to dryness to give 1-(4-chloro-3-methyl-2-methylsulphenylphenyl)-3-cyclopropylpropan-1,3-dione (20.19 g) as a yellow oil, NMR (CDCl3) 0.9(m,2H), 1.2 (m,2H), 1.7(m, 1H), 2.3(s,3H), 2.65(s,3H), 5.85 (s, 1H), 7.15(d, 1H), 7.3(d, 1H), 15.7-16.0(bs, 1H).

reactant | methyl 4-chloro-3-methyl-2-(methylsulphenyl)benzoate | 19.5 g | ClC1=C(C(=C(C(=O)OC)C=C1)SC)C | C10H11ClO2S
reactant | cyclopropyl methyl ketone | 13.4 g | CC(=O)C1CC1 | C5H8O
reactant | sodium hydride | 4.8 g | [H-].[Na+]
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(4-chloro-3-methyl-2-methylsulphenylphenyl)-3-cyclopropylpropan-1,3-dione | 20.19 g | ClC1=C(C(=C(C=C1)C(CC(=O)C1CC1)=O)SC)C | C14H15ClO2S
